US04420487
Preparation of 2-(1-Adamantanylmethyl)-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hemihydrate
A mixture of 1.6 g of 2-amino-4-chloro-5-sulfamylaniline dihydrochloride and 1.6 g of 1-adamantane acetic acid was heated at 180°-200° for 5 hours. The mixture was cooled and the solid collected and ground into a fine powder; this was then added slowly to 100 ml of concentrated ammonium hydroxide with stirring. After stirring for twenty minutes, the solid was collected by filtration and then added to 150 ml of methanol, brought to a boil, charcoal added, and boiling continued for five minutes. The mixture was filtered through two sheets of filter paper, cooled, filtered through Celite, and then concentrated in vacuo to a dark pink solid. Recrystallization from acetonitrile provided 0.5 g of product, m.p. 203°-205°.

reactant | 2-amino-4-chloro-5-sulfamylaniline dihydrochloride | 1.6 g | Cl.Cl.NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O
reactant | 1-adamantane acetic acid | 1.6 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
product | 2-(1-Adamantanylmethyl)-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hemihydrate | 0.5 g | O.C12(CC3CC(CC(C1)C3)C2)CC2=NC3=C(N2)C=C(C(=C3)Cl)S(N)(=O)=O.C32(CC1CC(CC(C3)C1)C2)CC2=NC1=C(N2)C=C(C(=C1)Cl)S(N)(=O)=O | InChI=1S/2C18H22ClN3O2S.H2O/c2*19-13-4-14-15(5-16(13)25(20,23)24)22-17(21-14)9-18-6-10-1-11(7-18)3-12(2-10)8-18;/h2*4-5,10-12H,1-3,6-9H2,(H,21,22)(H2,20,23,24);1H2
